US09193723B2
N-(imidazo[1,2-a]pyridin-6-ylmethyl)-2-((tetrahydrofuran-2-yl)methylamino)thiazole-5-carboxamide
The title compound was prepared as in Example 53B, substituting (tetrahydrofuran-2-yl)methanamine for 4-cyanobenzylamine and 2-bromo-N-(imidazo[1,2-a]pyridin-6-ylmethyl)thiazole-5-carboxamide for 2-bromo-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide.

reactant | 4-cyanobenzylamine | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
reactant | 2-bromo-N-(imidazo[1,2-a]pyridin-6-ylmethyl)thiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)NCC=1C=CC=2N(C1)C=CN2 | C12H9BrN4OS
reactant | 2-bromo-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)NC=1C=CC=2N(C1)C=CN2 | C11H7BrN4OS
product | N-(imidazo[1,2-a]pyridin-6-ylmethyl)-2-((tetrahydrofuran-2-yl)methylamino)thiazole-5-carboxamide | N=1C=CN2C1C=CC(=C2)CNC(=O)C2=CN=C(S2)NCC2OCCC2 | C17H19N5O2S
